US05612323
C. 1-[(1,1-Dimethyl-2-propynyl)oxy]-4-iodobenzene
To a solution of 4-iodophenol (6.05 g, 27.5 mmol), in anhydrous acetonitrile (25 mL) cooled to 0° C. was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 4.50 mL, 30.1 mmol). The solution was stirred for 10 minutes then the title B compound (2.56 g, 25 mmol) was added followed by copper(II) chloride dihydrate (5.1 mg, 0.030 mmol). The reaction mixture was stirred at 0° C. for five hours then concentrated in vacuo. The residue was partitioned between 200 mL of toluene and 40 mL of 1M aq HCl solution. The organic layer was washed with two-40 mL portions of 1M aq HCl solution, two-40 mL portions of 1M aq NaOH solution, brine then dried (magnesium sulfate) and concentrated in vacuo to give a pale yellow liquid. The crude material was purified by bulb-to-bulb distillation (100° C., 0.1 mm) to afford the title compound as a colorless liquid (5.65 g, 19.7 mmol, 79%).

reactant | 4-iodophenol | 27.5 mmol, 6.05 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 30.1 mmol, 4.50 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | copper(II) chloride dihydrate | 0.030 mmol, 5.1 mg | O.O.[Cu](Cl)Cl
product | 1-[(1,1-Dimethyl-2-propynyl)oxy]-4-iodobenzene | 19.7 mmol, 5.65 g, 79% | CC(C#C)(C)OC1=CC=C(C=C1)I | C11H11IO
